US09278931B2
N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)biphenyl-4-carboxamide hydrochloride
A solution of N-[4-(trans-2-aminocyclopropyl)phenyl]biphenyl-4-carboxamide hydrochloride (2.2 g) in methanol (75 mL)/THF (75 mL) was ice-cooled, and cyclopropanecarbaldehyde (549 mg) and sodium hydrogen carbonate (1.01 g) were added. The mixture was stirred at 60° C. for 1 hr, and ice-cooled to 0° C. and sodium borohydride (456 mg) was added. The mixture was stirred for 1 hr, and saturated aqueous sodium hydrogen carbonate solution was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate, ethyl acetate/methanol). 10% Hydrochloric acid methanol solution was added and the solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (1.62 g).

reactant | N-[4-(trans-2-aminocyclopropyl)phenyl]biphenyl-4-carboxamide hydrochloride | 2.2 g | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1
reactant | cyclopropanecarbaldehyde | 549 mg | C1(CC1)C=O | C4H6O
reactant | sodium hydrogen carbonate | 1.01 g | C(O)([O-])=O.[Na+]
reactant | sodium borohydride | 456 mg | [BH4-].[Na+]
solvent | methanol | 75 mL | CO | CH4O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)biphenyl-4-carboxamide hydrochloride | 1.62 g | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C26H26N2O.ClH/c29-26(22-10-8-20(9-11-22)19-4-2-1-3-5-19)28-23-14-12-21(13-15-23)24-16-25(24)27-17-18-6-7-18;/h1-5,8-15,18,24-25,27H,6-7,16-17H2,(H,28,29);1H/t24-,25+;/m0./s1
